US06716257B2
Step 4.1: 1,3-bis-(3,5-dibromo-4-nitropyrazol-1-yl-methyl)benzene
13.54 g of 3,5-dibromo-4-nitropyrazole, 11.1 g potassium carbonate, 0.8 g of potassium iodide and 6.6 g α, α′-dibromo-m-xylene are heated to 100° C. in 40 ml of dimethyl formamide. After 50 minutes the reaction mixture is allowed to cool and poured into 400 ml water. The precipitate is filtered, washed with water and dried in vacuum.

reactant | 3,5-dibromo-4-nitropyrazole | 13.54 g | BrC1=NNC(=C1[N+](=O)[O-])Br | C3HBr2N3O2
reactant | potassium carbonate | 11.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.8 g | [I-].[K+]
reactant | α, α′-dibromo-m-xylene | 6.6 g | BrCC1=CC(=CC=C1)CBr | C8H8Br2
solvent | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | 1,3-bis-(3,5-dibromo-4-nitropyrazol-1-yl-methyl)benzene | BrC1=NN(C(=C1[N+](=O)[O-])Br)CC1=CC(=CC=C1)CN1N=C(C(=C1Br)[N+](=O)[O-])Br | C14H8Br4N6O4
